US05204473
1-Cyclohexyloxy-4-octadecanoyloxy-2,2,6,6-tetramethylpiperidine
The title compound is prepared in 69% yield from the reaction of octadecanoyl chloride with 1-cyclohexyloxy-4-hydroxy-2,2,6,6-tetramethylpiperidine following the procedure in Example 17. Purification (Waters Prep. 500A HPLC, 100:1 heptane:ethyl acetate) yields a white solid, m.p. 44°-47° C.

reactant | octadecanoyl chloride | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
reactant | 1-cyclohexyloxy-4-hydroxy-2,2,6,6-tetramethylpiperidine | C1(CCCCC1)ON1C(CC(CC1(C)C)O)(C)C | C15H29NO2
product | 1-Cyclohexyloxy-4-octadecanoyloxy-2,2,6,6-tetramethylpiperidine | 69% yield | C1(CCCCC1)ON1C(CC(CC1(C)C)OC(CCCCCCCCCCCCCCCCC)=O)(C)C | C33H63NO3
